US06559167B1
Additional experiments, described below, with further compounds of the invention showed good inhibition of gastric acid secretion. For example, when a mixture of 2-{2-carbamoylmethoxy-4-[5-methoxy-2-((4-methoxy-3,5-dimethyl pyridin-2-yl)methanesulfinyl)benzimidazole-1-sulfonyl]phenoxy}acetamide and 2-{2-carbamoylmethoxy-4-[6-methoxy-2-((4-methoxy-3,5-dimethyl pyridin-2-yl)methanesulfinyl)benzimidazole-1-sulfonyl]phenoxy}acetamide (1:1 mixture of isomers) was administrated to male rat, gastric acid secretion was observed to be significantly and continuously inhibited. Using pylorus-ligated male rats, when acid-output stimulated by histamine was measured, intraduodenal administration of 10 μmole of 2-{2-carbamoylmethoxy-4-[5-methoxy-2-((4-methoxy-3,5-dimethyl pyridin-2-yl)methanesulfinyl)benzimidazole-1-sulfonyl]phenoxy}acetamide and 2-{2-carbamoylmethoxy-4-[6-methoxy-2-((4-methoxy-3,5-dimethyl pyridin-2-yl)methanesulfinyl)benzimidazole-1-sulfonyl]phenoxy}acetamide (1:1 mixture of isomers) provided 64.2% inhibition, while OMEPRAZOLE provided only 54.6% under identical condition. Also, when acid-output stimulated by histamine and carbachol was measured after 5.5 hr of oral administration, the latter mixture of isomers provided 49.7% inhibition, while OMEPRAZOLE provided only 19.6% inhibition. Under similar condition, (pyridine-3-sulfonyl)OMEPRAZOLE (the compound of Example 25) inhibited 61% and a mixture of 2-{4-[(5-methoxy-2-{[(3,5-dimethyl-4-methoxy-2-pyridyl)methyl]sulfinyl } benzimidazol-1-yl)sulfonyl]phenoxy} acetamide and 2-{4-[(6-methoxy-2-{[(3,5-dimethyl-4-methoxy-2-pyridyl)methyl]sulfinyl} benzimidazol-1-yl)sulfonyl]phenoxy}acetamide inhibited 65%, while OMEPRAZOLE showed relatively rapid decline of inhibition (about 20%) with fast elimination of drug in the plasma level. Similarly, 2-(2-carbamoylmethoxy-4-{2-[4-(3-methoxypropoxy)-3-methyl pyridin-2-yl methylsulfinyl]benzimidazole-1-sulfonyl}phenoxy)acetamide provided 56% inhibition after 5 hr of oral administration, while the parent RABEPRAZOLE showed 32% of inhibition under the same condition. 2-(4-{[2-({[3-Methyl-4-(2,2,2-trifluoroethoxy)-2-pyridyl]methyl}sulfinyl) benzimidazol-1-yl]sulfonyl}phenoxy)acetamide provided 46.9% inhibition and 2-(2-carbamoylmethoxy-4-{2-[3-methyl-4-(2,2,2-trifluoro-ethoxy)-pyridin-2-yl methanesulfinyl]-benzimidazole-1-sulfonyl}-phenoxy)-acetamide gave 36.8% inhibition, while the parent LANSOPRAZOLE showed only 29% inhibition after 4 hour of oral administration.

reactant | 2-{4-[(5-methoxy-2-{[(3,5-dimethyl-4-methoxy-2-pyridyl)methyl]sulfinyl } benzimidazol-1-yl)sulfonyl]phenoxy} acetamide | COC1=CC2=C(N(C(=N2)S(=O)CC2=NC=C(C(=C2C)OC)C)S(=O)(=O)C2=CC=C(OCC(=O)N)C=C2)C=C1 | C25H26N4O7S2
reactant | 2-{4-[(6-methoxy-2-{[(3,5-dimethyl-4-methoxy-2-pyridyl)methyl]sulfinyl} benzimidazol-1-yl)sulfonyl]phenoxy}acetamide | COC=1C=CC2=C(N(C(=N2)S(=O)CC2=NC=C(C(=C2C)OC)C)S(=O)(=O)C2=CC=C(OCC(=O)N)C=C2)C1 | C25H26N4O7S2
reactant | OMEPRAZOLE | CC=1C=NC(=C(C1OC)C)C[S+](C=2NC=3C=CC(=CC3N2)OC)[O-] | C17H19N3O3S
product | 2-(2-carbamoylmethoxy-4-{2-[4-(3-methoxypropoxy)-3-methyl pyridin-2-yl methylsulfinyl]benzimidazole-1-sulfonyl}phenoxy)acetamide | C(N)(=O)COC1=C(OCC(=O)N)C=CC(=C1)S(=O)(=O)N1C(=NC2=C1C=CC=C2)S(=O)(C)C2=NC=CC(=C2C)OCCCOC | C28H33N5O9S2
